7
R0102 1 2 1
R0301 3 1 1.88
L0300 3 0 1
C0104 1 4 0.31
C0304 3 4 1
C0506 5 6 1
G0105 1 5 2 6 0 -0.7 0 0.4 0 -0.2 0 0.027
H0700 7 0 5 0 1
V0400 4 0 PULSE 0 1 0 0 0 10000 20000 1
.TRAN 1000 10E-3 BE 1
